US04529698
(3S-trans)-3-Amino-4-methyl-2-oxo-1-azetidinesulfonic acid
Under an atmosphere of argon, 100 g of benzyloxycarbonylthreonine amide is dissolved in 400 ml of anhydrous pyridine and cooled in an ice/salt bath. To this stirring solution, 36.8 ml (54.5 g) of methanesulfonyl chloride is added over a 15 minute period. After 2 hours of stirring an additional 0.3 equivalents of methanesulfonyl chloride is added. The reaction is then stirred for 1 hour and poured into a mixture of 1.5 l of ice and 2 l of water. The resulting slurry is stirred for about 30 minutes and filtered. Drying of the crude product at 60° C. for about 16 hours in a vacuum oven gives 109 g of the title compound.

reactant | benzyloxycarbonylthreonine amide | 100 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@H](O)C)C(=O)N | C12H16N2O4
reactant | methanesulfonyl chloride | 36.8 ml, 54.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.3 equivalents | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 2 l | O | H2O
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | (3S-trans)-3-Amino-4-methyl-2-oxo-1-azetidinesulfonic acid | 109 g | N[C@@H]1C(N([C@H]1C)S(=O)(=O)O)=O | C4H8N2O4S
